US04977146
STEP 1F: (-)-(1S)-1-(3-Methylsulfonyl-4-n-propoxy-5-benzyloxyphenyl)-4-(3,4,5-trimethoxyphenyl)butan-1.4-diol
35 g of (-)-(1S)-1-(3-methylsulfonyl-4-n-propoxy-5-benzyloxyphenyl)-4-(3,4,5-trimethoxyphenyl)butan-1-ol-4-one dissolved in a mixture of 300 mL dry THF and 100 mL of methanol was treated with 3.5 g of NaBH4 at 0° C. and stirred for 3 h. The reaction mixture was then allowed to gradually warm to room temperature and stirring was continued for additional 2 h. After the completion of the reaction, the solvent was evaporated at reduced pressure and the residue obtained as such was redissolved in 300 ml of ethyl acetate. The organic layer was washed with 1.5N HCl, distilled water and brine respectively, and then dried over MgSO4 and evaporated to yield a colorless syrup which was used without further purification.

reactant | (-)-(1S)-1-(3-methylsulfonyl-4-n-propoxy-5-benzyloxyphenyl)-4-(3,4,5-trimethoxyphenyl)butan-1-ol-4-one | 35 g | CS(=O)(=O)C=1C=C(C=C(C1OCCC)OCC1=CC=CC=C1)[C@H](CCC(=O)C1=CC(=C(C(=C1)OC)OC)OC)O | C30H36O9S
reactant | NaBH4 | 3.5 g | [BH4-].[Na+]
solvent | THF | 300 mL | C1CCOC1 | C4H8O
solvent | methanol | 100 mL | CO | CH4O
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | (-)-(1S)-1-(3-Methylsulfonyl-4-n-propoxy-5-benzyloxyphenyl)-4-(3,4,5-trimethoxyphenyl)butan-1.4-diol | CS(=O)(=O)C=1C=C(C=C(C1OCCC)OCC1=CC=CC=C1)[C@H](CCC(O)C1=CC(=C(C(=C1)OC)OC)OC)O | C30H38O9S
